US07135475B2
A solution of 2-(4-acetylamino-phenyl)-N-[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1-(1-trityl-1H-[1,2,4]triazol-3-ylmethyl)-1,2,3,4-tetrahydro-pyrimidin-5-yl]-acetamide (50 mg, 0.06 mmol) in methanol (2.0 mL) was treated with a 10% aqueous sodium hydroxide solution (0.8 mL). The reaction was heated to 50° C. for 8 h. At this time, the reaction was cooled to 0° C., acidified with a 3N aqueous hydrochloric acid solution, filtered, and washed with water to afford N-{4-[1-(2-fluoro-benzyl)-2,6-dioxo-3-(1-trityl-1H-[1,2,4]triazol-3-ylmethyl)-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-acetamide (36 mg, 75%) as an off-white solid: 1H NMR (DMSO-d6, 300 MHz) δ13.45 (broad s, 1H), 9.87 (s, 1H), 7.94 (s, 1H), 7.47–6.89 (m, 23H), 5.21 (s, 2H), 5.07 (s, 2H), 3.95 (s, 2H), 2.48 (s, 3H).

reactant | 2-(4-acetylamino-phenyl)-N-[6-amino-3-(2-fluoro-benzyl)-2,4-dioxo-1-(1-trityl-1H-[1,2,4]triazol-3-ylmethyl)-1,2,3,4-tetrahydro-pyrimidin-5-yl]-acetamide | 0.06 mmol, 50 mg | C(C)(=O)NC1=CC=C(C=C1)CC(=O)NC=1C(N(C(N(C1N)CC1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=C(C=CC=C1)F)=O | C43H37FN8O4
reactant | sodium hydroxide | 0.8 mL | [OH-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methanol | 2.0 mL | CO | CH4O
product | N-{4-[1-(2-fluoro-benzyl)-2,6-dioxo-3-(1-trityl-1H-[1,2,4]triazol-3-ylmethyl)-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-acetamide | 36 mg, 75% | FC1=C(CN2C(N(C=3N=C(NC3C2=O)CC2=CC=C(C=C2)NC(C)=O)CC2=NN(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC=C1 | C43H35FN8O3
